US07282501B2
Step B: 5-Benzyloxy-2-(2-tert-butoxycarbonyl-vinyl)-benzoic acid
A solution of 3-(4-benzyloxy-2-formyl-phenyl)-acrylic acid tert-butyl ester (6.70 g, 19.8 mmol) in tert-butanol (150 mL) was treated with 2-methyl-2-butene (50 mL) and cooled to 0° C. A solution of NaClO2 (17.0 g, 188 mmol) and NaH2PO4 (17.0 g, 142 mmol) in H2O (200 mL) was added, and the mixture was stirred at 0° C. for 15 min. The ice bath was removed, and the mixture was stirred at room temperature for 2 h. The organic layer was separated, and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were dried (Na2SO4) and concentrated. The residue was purified using silica gel chromatography (hexanes/EtOAc 9/1 to 0/10) to afford the title compound as white solid (6.78 g, 96%). 1H NMR (400 MHz, CDCl3): δ 1.52 (s, 9H), 5.12 (s, 2H), 6.20 (d, 1H, J=16.2 Hz), 7.13 (dd, 1H, J=3.6, 9.0 Hz), 7.34-7.45 (m, 5H), 7.58 (d, 1H, J=8.8 Hz), 7.64 (d, 1H, J=2.4 Hz), 8.41 (d, 1H, J=16.2 Hz).

reactant | 3-(4-benzyloxy-2-formyl-phenyl)-acrylic acid tert-butyl ester | 19.8 mmol, 6.70 g | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C=O)=O | C21H22O4
reactant | 2-methyl-2-butene | 50 mL | CC(C)=CC | C5H10
reactant | NaClO2 | 188 mmol, 17.0 g | [O-]Cl=O.[Na+]
solvent | tert-butanol | 150 mL | C(C)(C)(C)O | C4H10O
solvent | H2O | 200 mL | O | H2O
product | 5-Benzyloxy-2-(2-tert-butoxycarbonyl-vinyl)-benzoic acid | 6.78 g, 96% | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)O)C1)C=CC(=O)OC(C)(C)C | C21H22O5
